US08372874B2
Step 2: Synthesis of 5-(2-Methoxy-ethoxy)-4,4-dimethyl-3-oxo-pentanenitrile
A solution of 3-(2-methoxy-ethoxy)-2,2-dimethyl-propionic acid methyl ester (3.08 g, 16.21 mmol) and acetonitrile (1.19 mL, 22.69 mmol) in toluene (6 mL) is added dropwise to the refluxing suspension of 60% sodium hydride in mineral oil (907.6 mg, 22.69 mmol) in toluene (18 mL). After the addition, the reaction mixture is stirred at reflux for 3 h. After this time, the reaction mixture is cooled to room temperature and the aqueous layer is neutralized to pH˜7 by adding 1M aqueous HCl solution. The aqueous layer is extracted with ethyl acetate 3 times. The organic layers are combined, washed with brine, dried over Na2SO4 and filtered. The filtrate is concentrated under reduced pressure to yield the title compound. Yield: 94.2%. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.20 (6H, s), 3.38 (3H, s), 3.47 (2H, s), 3.50-3.55 (2H, m), 3.57-3.62 (2H, m), 3.80 (2H, s).

reactant | 3-(2-methoxy-ethoxy)-2,2-dimethyl-propionic acid methyl ester | 16.21 mmol, 3.08 g | COC(C(COCCOC)(C)C)=O | C9H18O4
reactant | acetonitrile | 22.69 mmol, 1.19 mL | C(C)#N | C2H3N
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 18 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(2-Methoxy-ethoxy)-4,4-dimethyl-3-oxo-pentanenitrile | Yield: 94.2% | COCCOCC(C(CC#N)=O)(C)C | C10H17NO3
